US06780996B2
A mixture of 3-fluoro-4-methoxyaniline (3.00 g, 21.26 mmol) and diethyl ethoxymethylene malonate (4.59 g, 21.26 mmol) is heated at 110° C. for 1 hour then cooled to room temperature. Hexane is added and the solids collected by filtration. This material is suspended in 45 mL of a 3:1 mixture of diphenyl ether:biphenyl and the mixture is heated at reflux for 2 hours to provide a brown solution. The reaction mixture is cooled to room temperature and hexane is added. The resultant solid is collected by filtration washing with hexane to provide 2.62 g of ethyl 7-fluoro-6-methoxy-4-oxo-1,4-dihydro-3-quinolinecarboxylate as a white solid, mp>300° C.

reactant | 3-fluoro-4-methoxyaniline | 21.26 mmol, 3.00 g | FC=1C=C(N)C=CC1OC | C7H8FNO
reactant | diethyl ethoxymethylene malonate | 21.26 mmol, 4.59 g | CCOC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | hexane | CCCCCC | C6H14
product | ethyl 7-fluoro-6-methoxy-4-oxo-1,4-dihydro-3-quinolinecarboxylate | 2.62 g | FC1=C(C=C2C(C(=CNC2=C1)C(=O)OCC)=O)OC | C13H12FNO4
